* C:\users\noah\Documents\ECP\project\exact\exact_PPU.asc
XX2 T4 N008 N023 memsim+ecm_nominal params: w_init=3n
XX3 T5 N009 N024 memsim+ecm_nominal params: w_init=3n
XX4 T6 N010 N025 memsim+ecm_nominal params: w_init=3n
XX5 T7 N011 N026 memsim+ecm_nominal params: w_init=3n
XX6 C_OUT N015 N027 memsim+ecm_nominal params: w_init=3n
V1 N008 0 PWL file=V4.csv
V3 N009 0 PWL file=V5.csv
V4 N010 0 PWL file=V6.csv
V5 N011 0 PWL file=V7.csv
S2 N023 N046 N038 0 MYSW
V8 N038 0 PWL file=Vsw4.csv
S3 N024 N046 N039 0 MYSW
V9 N039 0 PWL file=Vsw5.csv
S4 N025 N046 N040 0 MYSW
V10 N040 0 PWL file=Vsw6.csv
S5 N026 N046 N041 0 MYSW
V11 N041 0 PWL file=Vsw7.csv
SWCOUT N027 N046 N042 0 MYSW
V12 N042 0 PWL file=VswCOUT.csv
XX7 S_OUT N012 N028 memsim+ecm_nominal params: w_init=3n
VCOUT N015 0 PWL file=VCOUT.csv
SWSOUT N028 N046 N043 0 MYSW
V13 N043 0 PWL file=VswSOUT.csv
VSOUT N012 0 PWL file=VSOUT.csv
XX1 T3 N007 N022 memsim+ecm_nominal params: w_init=3n
V2 N007 0 PWL file=V3.csv
S1 N022 N046 N037 0 MYSW
V6 N037 0 PWL file=Vsw3.csv
XX8 T2 N006 N021 memsim+ecm_nominal params: w_init=3n
V7 N006 0 PWL file=V2.csv
S6 N021 N046 N036 0 MYSW
V14 N036 0 PWL file=Vsw2.csv
XX9 T1 N005 N020 memsim+ecm_nominal params: w_init=3n
V15 N005 0 PWL file=V1.csv
S7 N020 N046 N035 0 MYSW
V16 N035 0 PWL file=Vsw1.csv
XX10 S_IN N004 N019 memsim+ecm_nominal params: w_init=3n
V17 N004 0 PWL file=VSIN.csv
S8 N019 N046 N034 0 MYSW
V18 N034 0 PWL file=VswSIN.csv
XX11 C_IN N003 N018 memsim+ecm_nominal params: w_init=3n
V19 N003 0 PWL file=VCIN.csv
S9 N018 N046 N033 0 MYSW
V20 N033 0 PWL file=VswCIN.csv
XX12 B N002 N017 memsim+ecm_nominal params: w_init=3n
V21 N002 0 PWL file=VB.csv
S10 N017 N046 N032 0 MYSW
V22 N032 0 PWL file=VswB.csv
XX13 A N001 N016 memsim+ecm_nominal params: w_init=3n
V23 N001 0 PWL file=VA.csv
S11 N016 N046 N031 0 MYSW
V24 N031 0 PWL file=VswA.csv
XX14 T8 N013 N029 memsim+ecm_nominal params: w_init=3n
SWSOUT2 N029 N046 N044 0 MYSW
V26 N044 0 PWL file=Vsw8.csv
VSOUT2 N013 0 PWL file=V8.csv
XX15 T9 N014 N030 memsim+ecm_nominal params: w_init=3n
SWSOUT1 N030 N046 N045 0 MYSW
V25 N045 0 PWL file=Vsw9.csv
VSOUT1 N014 0 PWL file=V9.csv

* block symbol definitions
.subckt memsim+ecm_nominal s Vp Vn
B1 0 w I=G_on(V(Vp,Vn))
B2 0 w I=G_off(V(Vp,Vn))
C1 w 0 1
D1 w N003 idealD
D2 N004 w idealD
V1 N003 0 {w_off}
R1 N001 0 {R_on}
Fv N002 Vn Bm -1
Bm N001 0 V=vs(V(Vp,Vn),V(w))
E1 s 0 w 0 {1/w_off}
R2 Vp N002 1µ
V2 N004 0 {w_on}
.ic V(w)={w_init}
.model idealD D(Ron=1f Roff=100G Vfwd=0.1f)
.param alpha_off=2  w_off=3n
.param alpha_on=2  w_on=0
.param w_init=0n
.param R_on=174 R_off=1933.15
.param v_off=1.56v v_on=-0.39v
.param k_off=406.488m k_on=-62.37m
.func G_off(v) {k_off*pow( (v/v_off-1),alpha_off)*u(v-v_off)}
.func G_on(v) {k_on*pow( (v/v_on-1) ,alpha_on)*u(v_on-v)}
.param lambda=(R_off/R_on)
.func vs(v,w) {v/(1+(lambda-1)*(w_off-w)/(w_off-w_on) )}
.ends memsim+ecm_nominal

.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 450u
.model MYSW SW(Ron=1n Roff=1000meg Vt=.5)
.backanno
.end
